US07745641B2
In a similar manner to Step 2 of Example 6, a crude product of 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (0.713 g) was dissolved in acetonitrile (20 mL), and the solution was treated with dimethylamine hydrochloride (2.75 g, 33.8 mmol), triethylamine (4.70 mL, 33.8 mmol), acetic acid (1.90 mL, 33.8 mmol) and sodium triacetoxyborohydride (1.10 g, 5.07 mmol), followed by purification of the residue by flash column chromatography (chloroform/methanol=4/1) to obtain 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(dimethylaminomethyl)indol-2-yl]isoindolinone (0.138 g, yield 19%).

reactant | 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.713 g | OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C23H22N2O6
reactant | dimethylamine hydrochloride | 33.8 mmol, 2.75 g | Cl.CNC
reactant | triethylamine | 33.8 mmol, 4.70 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 33.8 mmol, 1.90 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 5.07 mmol, 1.10 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-hydroxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-(dimethylaminomethyl)indol-2-yl]isoindolinone | 0.138 g, yield 19% | OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN(C)C)C(=O)OC(C)(C)C)=O | C25H29N3O5
